US05037830
Preparation of 2-[(4-methylpyridin-2-yl)methyl]thio- 6-methyl-4(3H)-pyrimidinone
A mixture containing 1.23 g (10 mmol) of 2-hydroxymethyl-4-methylpyridine [Bull. Chem. Soc. Jap. 3, 413 (1955)], 2.1 ml (15 mmol) of triethylamine and 25 ml of chloroform is cooled to 0° C. and 0.85 ml (11.7 mmol) of methanesulfonyl chloride is added under stirring. After stirring for 30 minutes 0.2 g of benzyltriethylammonium chloride and 1.42 g (10 mmol) of 6-methyl-2-thiouracil dissolved in 20 ml of 1N sodium hydroxide solution are added, then the reaction mixture is vigorously stirred at room temperature for 10 hours and worked up in the usual manner. The crude product obtained is crystallized by thoroughly triturating it with diisopropyl ether, m.p.: 157°-158° C. The product obtained is further purified by recrystallization from the mixture of toluene and ethyl acetate to obtain 1.19 g (48%) of the title compound, m.p.: 161°-162° C.

reactant | 2-hydroxymethyl-4-methylpyridine | 10 mmol, 1.23 g | OCC1=NC=CC(=C1)C | C7H9NO
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.7 mmol, 0.85 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-methyl-2-thiouracil | 10 mmol, 1.42 g | CC1=CC(NC(N1)=S)=O | C5H6N2OS
catalyst | benzyltriethylammonium chloride | 0.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(4-methylpyridin-2-yl)methyl]thio- 6-methyl-4(3H)-pyrimidinone | 1.19 g, 48% | CC1=CC(=NC=C1)CSC1=NC(=CC(N1)=O)C | C12H13N3OS
